data/pmechdb/original/mc_train_fold0/raw/train.txt
COC(=O)[C+:20](C1=CC=CC=C1)[Cu-]Cl.C1=CC2=C(C=C1)[NH:10]C3=C2C=CC=C3.[B-](C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)(C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F.[Na+]>>COC(=O)[C:20](C1=CC=CC=C1)([NH+:10]2C3=C(C=CC=C3)C4=C2C=CC=C4)[Cu-]Cl.[B-](C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)(C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F.[Na+] 10=20,
CC(C)C[Al-:11](CC(C)C)([CH2:10]C(C)C)[O+:21]=[C:20](C)C=C(C)C>>CC(C)[CH2:10][C:20](C)(C=C(C)C)[O:21][Al:11](CC(C)C)CC(C)C 10,11=10,20;20,21=21
CC(C[CH2:20][O:21][P+:22](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)CCBr.[Br-:10].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CC(CCBr)C[CH2:20][Br:10].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10=20;20,21=21,22
[B-:10]([O:9][CH:8]([CH:14]([CH3:36])[CH+:15][CH2:16][Sn-:17]([CH2:24][CH2:25][CH2:26][CH3:27])([CH2:28][CH2:29][CH2:30][CH3:31])([CH2:32][CH2:33][CH2:34][CH3:35])[O+:18]([B:19]([F-:21])([F:20])[F:22])[CH3:23])[CH:7]([CH3:37])[CH:6]1[CH:4]([CH2:3][CH:2]([CH:39]([O:38]1)[O:40][CH:41]([CH3:42])[CH3:43])[CH3:1])[CH3:5])([F:11])([F:12])[F:13]>>[B-:10]([O:9][CH:8]([CH:14]([CH3:36])[CH:15]=[CH2:16])[CH:7]([CH3:37])[CH:6]1[CH:4]([CH2:3][CH:2]([CH:39]([O:38]1)[O:40][CH:41]([CH3:42])[CH3:43])[CH3:1])[CH3:5])([F:11])([F:12])[F:13].[B:19]([O+:18]([CH3:23])[Sn:17]([CH2:24][CH2:25][CH2:26][CH3:27])([CH2:28][CH2:29][CH2:30][CH3:31])[CH2:32][CH2:33][CH2:34][CH3:35])([F-:21])([F:22])[F:20] 17,16=16,15
[H:20][Br:21].C[C:11]1=[CH:10]CCC1(C)C2=CC=CC=C2>>[H:20][CH:10]1CCC([C+:11]1C)(C)C2=CC=CC=C2.[Br-:21] 10,11=10,20;20,21=21
C1=CC(=C(C=C1)Br)CCC(=O)[Cl:10].[Al:20](Cl)(Cl)Cl>>C1=CC(=C(C=C1)Br)CCC(=O)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
[H:20][O+:21]=C(CCC)CC(=O)CC.CC[OH:10]>>[H:20][OH+:10]CC.CCCC(=[O:21])CC(=O)CC 10=20;20,21=21
C[C:20](C)([OH:10])[SH+:21]CCS>>C(CS)[SH:21].C[C:20](=[OH+:10])C 10=20;20,21=21
O[P:10](O)(O)(O)[Br:11]>>O[P+:10](O)(O)O.[Br-:11] 10,11=11
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2[N+](=O)[O-])Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=C[CH:22]=[C:21]2Br)C(=C1)[N+](=O)[O-] 10=20;20,21=21,22
C[C:20](=[O:21])C.[CH2-:10][N+](=O)[O-]>>C[C:20](C)([CH2:10][N+](=O)[O-])[O-:21] 10=20;20,21=21
C[N:10](C)C.[CuH2:20]>>C[N+:10](C)(C)[CuH2-:20] 10=20,
CC1=C(S[C:11](=[C:10](CCCOCC2=CC=CC=C2)O)[N:12]1CCC3=CC=C(C=C3)C[N+]4=CSC(=C4C)CCO)CCO.C1=CC=C(C=C1)[CH:20]=[CH:21][C:22](=[O:23])C2=CC=CC=C2.CC[NH+](CC)CC.CCO.[Br-]>>CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+:12]3=[C:11](SC(=C3C)CCO)[C:10](CCCOCC4=CC=CC=C4)([CH:20]([CH:21]=[C:22](C5=CC=CC=C5)[O-:23])C6=CC=CC=C6)O)CCO.CC[NH+](CC)CC.CCO.[Br-] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][OH2+:21].C(=[NH:10])N>>[H:20][NH+:10]=CN.[OH2:21] 10=20;20,21=21
CC1CC(C1O[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)C(=[O+:11][Al-:10](N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)(OC2=C(C=CC=C2C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C5C6=CC=CC=C6)C7=CC=CC=C7)OC8=CC=CC=C8>>CC1CC(C1O[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)C(=[O:11])OC2=CC=CC=C2.C1=CC=C(C=C1)C2=C(C(=CC=C2)C3=CC=CC=C3)O[Al:10](N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)OC4=C(C=CC=C4C5=CC=CC=C5)C6=CC=CC=C6 10,11=11
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]CC2=CC=C(C=C2)[N+](=O)[O-].COC1=CC(=CC=C1)C23CCCC(C2)[NH:10]CC3>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].COC1=CC(=CC=C1)C23CCCC(C2)[NH+:10](CC3)[CH2:20]CC4=CC=C(C=C4)[N+](=O)[O-] 10=20;20,21=21
C[C:11]([C:10]1=CC=CC=C1)([CH:20](C2=CC=CC=C2)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>C[C:11](=[OH+:12])[CH:20](C1=CC=CC=C1)[C:10]2=CC=CC=C2.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CO[C:11]1=[CH:10]C=C(C(=C1)[N+](=O)[O-])Br.[Br:20][Br:21]>>CO[C+:11]1C=C(C(=C[CH:10]1[Br:20])Br)[N+](=O)[O-].[Br-:21] 10,11=10,20;20,21=21
C[C:20](=[OH+:21])CC[C:11](=[CH2:10])[OH:12]>>C[C:20]1(CC[C:11](=[OH+:12])[CH2:10]1)[OH:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]=CCCC1=C(C=NC=N1)Br.C(=O)[O-:10].C(CO)CO.O>>[H:20][O:10]C=O.C1=NC=NC(=C1Br)CCC=[O:21].C(CO)CO.O 10=20;20,21=21
CO[P+:22](C)(OC)[O:21][CH3:20].[Br-:10]>>CO[P:22](=[O:21])(C)OC.[CH3:20][Br:10] 10=20;20,21=21,22
CC1=C(S[C:21](=[N+]1CC2=CC=CC=C2)[C:20](CCC(=O)C)(C(C)C)[O-:10])CCO.CC[NH+](CC)CC.[Cl-]>>CC1=C(S[C-:21]=[N+]1CC2=CC=CC=C2)CCO.CC(C)[C:20](=[O:10])CCC(=O)C.CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
[C:20]([NH3+:21])(O)(O)[OH:10]>>[C:20](=[OH+:10])(O)O.[NH3:21] 10=20;20,21=21
[CH3:10][Mg:11]Cl.C[Mg-]([P+:20](Cl)(Cl)Cl)Cl>>C[Mg-]([P:20]([CH3:10])(Cl)(Cl)Cl)Cl.[Mg+:11]Cl 10,11=10,20
